2159-05-25 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo M history of wegener's with baseline creatinine 1.2, PE [**11-17**],
   stable meningioma, AS with [**Location (un) 549**] 1, gout, who presented with altered
   mental status and was found to have new liver failure
   24 Hour Events:
   Intubated for airway protection and to facility
   Developed Afib with rapid response that responded to beta blockade
   received 4uFFP and 10 vit K with improvement in INR from 20 --> 3
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-24**] 08:17 PM
   Vancomycin - [**2159-5-24**] 09:00 PM
   Micafungin - [**2159-5-25**] 04:04 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-5-25**] 08:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-25**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 103 (92 - 116) bpm
   BP: 104/69(76) {85/52(62) - 124/83(91)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 14 (8 - 14)mmHg
   Total In:
                                                                  2,753 mL
                                                                  2,163 mL
   PO:
   TF:
   IVF:
                                                                  1,414 mL
                                                                    769 mL
   Blood products:
                                                                  1,339 mL
                                                                  1,394 mL
   Total out:
                                                                    880 mL
                                                                  2,310 mL
   Urine:
                                                                    880 mL
                                                                  2,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,873 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.34/43/463/22/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 926
   Physical Examination
   General Appearance: intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   275 K/uL
   150 mg/dL
   5.4 mg/dL
   22 mEq/L
   4.9 mEq/L
   212 mg/dL
   96 mEq/L
   138 mEq/L
   23.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2159-5-24**]  05:31 PM
                             [**2159-5-24**]  06:47 PM
                             [**2159-5-24**]  07:13 PM
                             [**2159-5-24**]  08:38 PM
                             [**2159-5-24**]  09:28 PM
                             [**2159-5-24**]  09:59 PM
                             [**2159-5-25**]  02:42 AM
                             [**2159-5-25**]  06:07 AM
   WBC
   7.6
   5.4
   6.3
   6.7
   Hct
   27.6
   26
   20.4
   19.9
   23.8
   Plt
   391
   249
   278
   275
   Cr
   6.7
   7.1
   6.1
   5.6
   5.4
   TropT
   0.05
   0.04
   0.04
   TCO2
   23
   24
   24
   Glucose
   107
   113
   119
   150
   Other labs: PT / PTT / INR:20.2/33.4/1.9, CK / CKMB /
   Troponin-T:812/8/0.04, ALT / AST:460/537, Alk Phos / T Bili:550/7.6,
   Amylase / Lipase:48/59, Differential-Neuts:72.0 %, Band:13.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:2.5 g/dL, LDH:429 IU/L, Ca++:6.4 mg/dL,
   Mg++:2.7 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   62 yo M history of wegener's with baseline creatinine 1.2, PE [**11-17**],
   stable meningioma, AS with [**Location (un) 549**] 1, gout, who presented with altered
   mental status and was found to have new liver failure
   1. Liver failure: initial concernf for primary fulminant liver failure,
   now appears most consistent with biliary process, remote history of
   etoh hepatitis
    - liver and tox service following
    - continue NAC
    - hepatitis panel pending
    - trending LFTs
   2. Mental status changes: uremia versus hepatic encephalopathy
    - likely not HD candidate at this moment for uremia
    - frequent neuro checks
    - holding lactulose in setting of GI bleed
   3. Coagulopathy: unclear source, holding a/c, has ivc filter in place
   4. Biliary process: gallstones, pneumobilia, possible enterobiliary
   fisutla
    - surgical services following,
    - considering percutanous gallbladder drain
    - will cont vanc/zosyn
   5. Acute renal failure:  sediment consistent with ATN
    - renal service following, no acute indication for HD, continue to
   trend electrolytes
   6. Gout:
    - continue prednisone for now at 40 mg, understanding that he is at
   increased risk for infection an dpossible wound healing, will discuss
   with his PCP regarding indication for prednisone/gout
    - holding colchicine
   7. GIB: hct drop tp 20 in setting of INR 20, responded to 3 uPRBCs no
   active s/sx bleed but egd would be useful to assess possible
   varices/gastritis
    - cont trend hct and t/f < 26 or s/sx bleed
   8. AS: tte today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2159-5-24**] 07:56 PM
   16 Gauge - [**2159-5-24**] 07:57 PM
   Multi Lumen - [**2159-5-25**] 02:28 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2159-05-26 13:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2159-5-25**] 08:30 AM
 PERCUTANEOUS DRAIN INSERTION - At [**2159-5-25**] 03:00 PM
   Perc colecytostomy drain placed at bedside by radiology under
   ultrasound.
   IR guided chole tube placed
   AF with RVR overnight.
   Received 1 unit RBC overnight.
   History obtained from Medical records
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Micafungin - [**2159-5-25**] 04:04 AM
   Vancomycin - [**2159-5-25**] 03:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-26**] 12:01 PM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2159-5-26**] 10:56 AM
   Metoprolol - [**2159-5-26**] 12:00 PM
   Other medications:
   Dilantin, peridex, keppra, solumedrol 32mg Q24hr,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-26**] 01:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 106 (102 - 133) bpm
   BP: 110/82(87) {84/55(64) - 131/97(105)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 12 (8 - 162)mmHg
   Mixed Venous O2% Sat: 81 - 81
                                Total In:
                                                                  6,861 mL
                                                                  1,956 mL
   PO:
                                TF:
   IVF:
                                                                  4,933 mL
                                                                  1,606 mL
   Blood products:
                                                                  1,929 mL
                                                                    350 mL
   Total out:
                                                                  5,150 mL
                                                                  2,740 mL
   Urine:
                                                                  5,150 mL
                                                                  2,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,711 mL
                                                                   -784 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, R IJ
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Biliary drain in place, slightly
   less tender today
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   256 K/uL
   101 mg/dL
   3.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   154 mg/dL
   106 mEq/L
   146 mEq/L
   28.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2159-5-24**]  09:28 PM
                             [**2159-5-24**]  09:59 PM
                             [**2159-5-25**]  02:42 AM
                             [**2159-5-25**]  06:07 AM
                             [**2159-5-25**]  09:18 AM
                             [**2159-5-25**]  11:23 AM
                             [**2159-5-25**]  05:37 PM
                             [**2159-5-25**]  07:31 PM
                             [**2159-5-26**]  12:05 AM
                             [**2159-5-26**]  05:56 AM
   WBC
   5.4
   6.3
   6.7
   7.6
   8.2
   9.1
   10.5
   11.1
   Hct
   20.4
   19.9
   23.8
   29.0
   29.6
   27.5
   27.6
   25.5
   28.9
   Plt
   249
   278
   275
   274
   272
   233
   219
   256
   Cr
   6.1
   5.6
   5.4
   4.9
   4.5
   3.9
   3.9
   TropT
   0.04
   TCO2
   24
   Glucose
   113
   119
   150
   162
   175
   140
   101
   Other labs: PT / PTT / INR:15.6/28.6/1.4, CK / CKMB /
   Troponin-T:812/8/0.04, ALT / AST:342/269, Alk Phos / T Bili:468/7.0,
   Amylase / Lipase:48/59, Differential-Neuts:72.0 %, Band:13.0 %,
   Lymph:8.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:429 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.6 mg/dL
   Fluid analysis / Other labs: VBG: 7.29/44/51
   Imaging: CXR:  ETT, L IJ in place.  Low lung volumes but clear.
   Microbiology: Biliary GS:  4+ GNR, GPR
   BCx:  NGTD
   Assessment and Plan
   62 yo M history of wegener's with baseline creatinine 1.2, PE [**11-17**],
   stable meningioma, AS with [**Location (un) 549**] 1, gout, who presented with altered
   mental status and was found to have new liver failure
   1.)  Biliary obstruction/Sepsis: Now s/p perc drain.
     -Follow up cultures from drain.
     -Continue empiric Zosyn, Vanc.   Will wait for final cultures to
   tailor abx.
     -Still on neosynephrine (not levophed given AF with RVR).  Will wean
   as biliary tree is drained.
     -CVP adequate now
     -Surgery on board
   2.)  Renal Failure:  Sediment c/w ATN in setting of sepsis.  U/o and
   Creatine both improving.
     -Continue to monitor u/o, lyes during post-ATN diuresis
   3.)  Coagulopathy: Anticoagulated for h/o PE in [**11-17**].  INR responded
   vigorously to Vitamin K.
     -If no new bleeding, will restart coumadin soon.
   4.) AF with RVR:  Currently in sinus.
     -PRN rate control with low dose BB vs amio if persistent problem.
   5.)  Respiratory Failure:  Intubated originally for airway protection.
   Minimal secretions
     -PSV trial today.
    6. Gout: Apparently on chronic prednisone 40mg daily.  Unclear if all
   for gout or in part for WG.
    - Currently on solumedrol for absorption issues.
    7. GIB: No signs of GIB since melena on initial presentation.
   -Check Q8hr HCT for now.  If rebleeds, may need EGD
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-5-24**] 07:56 PM
   16 Gauge - [**2159-5-24**] 07:57 PM
   Multi Lumen - [**2159-5-25**] 02:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2159-05-27 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - grew out GNRs in [**2-12**] blood cultures/anaerobic sample
   - no real changes to liver team plan, LFTs and INR improving
   - continued on Zosyn/Vanco ; held off on double GN coverage for now
   - TTE today --> EF 80% hyperdynamic, mild LVH, unable to assess pulm
   HTN or not , no vegetations
   - neurosurg wants to keep even for I/Os
   - no new [**Doctor First Name 91**] recs , just f/up final biliary cxs, drain ok amount per
   surgery
   - renal felt should watch diuresis amounts and keep up with IVFs as he
   will be auto-diuresing large amounts / osmotic diuresis, following
   lytes closely q8 hrs ( Ca, K, Mg, Phos, Na )- feel combination of
   tubular injury and hypotension, Cr improving slowly
   - Afib was refractory to metoprolol, digoxin so placed on amiodarone
   load with bolus
   - given Afib most of night, felt not very stable for OG tube placement
   & given that plan was possible SBT in morning seemed unnecessary to do
   OGT for few hours
   - SBT 50s, on 0/0 pressure support this AM. Tachypneic and following
   commands
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Micafungin - [**2159-5-25**] 04:04 AM
   Vancomycin - [**2159-5-26**] 12:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-27**] 04:02 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Amiodarone - 0.5 mg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Propofol - [**2159-5-26**] 02:01 PM
   Fentanyl - [**2159-5-26**] 02:53 PM
   Metoprolol - [**2159-5-26**] 04:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-27**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 113 (102 - 133) bpm
   BP: 127/78(91) {71/58(61) - 127/83(91)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 8 (6 - 12)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  4,319 mL
                                                                    651 mL
   PO:
   TF:
   IVF:
                                                                  3,969 mL
                                                                    651 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,740 mL
                                                                  1,090 mL
   Urine:
                                                                  4,740 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
                                                        250 mL in 24-48hrs
   Balance:
                                                                   -421 mL
                                                                   -439 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 427 (427 - 427) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 99%
   ABG: ///20/
   Ve: 8 L/min
   Physical Examination
   General: Intubated, appears comfortable
   HEENT +icterus
   Neck RIJ in placed
   Pulm lungs clear on anterior exam
   CV regular S1 S2 II/VI systolic murmur at base
   Abd soft +bowel sounds distended, less tender today, no
   rigidity/rebound
   Biliary drain with dark malodorous fluid
   Extrem Warm tr edema
   Neuro Opens eyes to voice, squeezes hands and wiggles toes to command
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   10.1 g/dL
   115 mg/dL
   3.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   133 mg/dL
   113 mEq/L
   148 mEq/L
   28.5 %
   14.8 K/uL
        [image002.jpg]
                             [**2159-5-25**]  09:18 AM
                             [**2159-5-25**]  11:23 AM
                             [**2159-5-25**]  05:37 PM
                             [**2159-5-25**]  07:31 PM
                             [**2159-5-26**]  12:05 AM
                             [**2159-5-26**]  05:56 AM
                             [**2159-5-26**]  11:50 AM
                             [**2159-5-26**]  04:32 PM
                             [**2159-5-26**]  11:03 PM
                             [**2159-5-27**]  03:35 AM
   WBC
   7.6
   8.2
   9.1
   10.5
   11.1
   12.9
   12.8
   14.8
   Hct
   29.0
   29.6
   27.5
   27.6
   25.5
   28.9
   30.1
   29.6
   27.9
   28.5
   Plt
   274
   272
   233
   [**Telephone/Fax (2) 12703**]26
   Cr
   4.9
   4.5
   3.9
   3.9
   3.6
   3.3
   3.0
   Glucose
   162
   175
   140
   101
   84
   105
   115
   Other labs: PT / PTT / INR:14.7/27.8/1.3, CK / CKMB /
   Troponin-T:812/8/0.04, ALT / AST:261/144, Alk Phos / T Bili:401/5.5,
   Amylase / Lipase:48/59, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:295 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   [**5-24**]: Positive BCx for GNR
   [**5-25**], [**5-27**] PND
[**2159-5-25**] 3:00 pm BILE      BILE FLUID.
   GRAM STAIN (Final [**2159-5-25**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      SMEAR REVIEWED; RESULTS CONFIRMED.
   FLUID CULTURE (Preliminary):
      GRAM NEGATIVE ROD(S).    HEAVY GROWTH.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
   TTE [**5-26**]:
   The left atrium is normal in size. There is moderate symmetric left
   ventricular hypertrophy. The left ventricular cavity is small. Left
   ventricular systolic function is hyperdynamic (EF 80%). Right
   ventricular chamber size and free wall motion are normal. There are
   three aortic valve leaflets. The aortic valve leaflets are moderately
   thickened. There is mild aortic valve stenosis (valve area 1.2-1.9cm2).
   The mitral valve leaflets are mildly thickened. There is no mitral
   valve prolapse. Trivial mitral regurgitation is seen. [Due to acoustic
   shadowing, the severity of mitral regurgitation may be significantly
   UNDERestimated.] The pulmonary artery systolic pressure could not be
   determined. There is no pericardial effusion.
   CMV IgM negative, HIV negative, RPR negative
   EBV pending
   Assessment and Plan
   62M meningioma, Wegeners, prior PE without known h/o active liver
   disease presenting to ED with altered mental status found to have
   encephalopathy, jaundice, transaminitis, acute on chronic renal failure
   s/p percutaneous cholecystostomy for biliary infection and found to
   have GNR bacteremia
   .
   # Transaminitis and jaundice
   Suspect [**3-13**] gallstone ileus and associated biliary infection
   Now s/p percutaneous cholecystotomy by IR with LFTs, bili continues to
   improve
   Had been concerned for fulminant liver failure on presentation, but
   less likely given rapid improvement in INR with vitamin K. Patient
   completed course of NAC and extensive pre-transplant workup initiated
   - Surgery, IR, liver recs appreciated
   - Serial abdominal exams Q4hr, follow biliary drain output
   - Trend LFTs and synthetic function daily
   - Continue fentanyl boluses as needed for abdominal pain
   - Continue vanc and zosyn for now for question of biliary sepsis
   pending cultures (d#1=[**5-24**])
   - F/u pretransplant serologic workup
   #Afib with RVR/sinus tachycardia
   Per discussion with partner, patient has not had this previously. Most
   likely precipitated by his acute illness, pain. Now on amiodarone as no
   response to metoprolol and digoxin. No improvement with fluids [**Month (only) 8**]
   improve after extubation
   - Continue amiodarone gtt s/p load
   - Can trial metoprolol or dilt prn
   - Pain control
   - No anticoagulation for now given bleeding, coagulopathy
   - f/u TSH
   # Vent
   Intubated for airway protection yesterday
   - Wean to PSV today
 SBT this AM
   - Recheck gas this morning
   # Coagulopathy
   INR improved following vitamin K. INR
   - Continue to hold warfarin
   - Trend INR, maintain active T+S
   # GIB
   Patient had melena on admission in setting of coagulopathy. Per
   discussion with GI, held on EGD given absence of large bleeding. Hct
   has been stable overnight.
   - Continue PPI drip
   - Follow q8h hct, transfuse hct>25
   - Favor EGD when stabilized
   # h/o PE: Pulmonary Embolism with RH strain dx [**11/2158**] with bilateral
   DVTs
   - continuing to hold anticoagulation for now, has IVC filter however if
   Hct remains stable overnight
   # Hypotension: Patient off pressors now.
   Suspect [**3-13**] sepsis along with relative hypovolemia in setting of
   post-ATN diuresis and blood loss. Consider also afib/RVR, meds
   (metoprolol, propofol). In setting of chronic steroids at home,
   consider also adrenal insufficiency
   - Continue fluid boluses as needed targeting CVPs >10
   - Follow urine output, goal at least net even today
   # Altered mental status
   Suspect this is [**3-13**] to uremia
 also considered hepatic encephalopathy.
   No evidence of seizure activity. CT head with 2mm hyperdensity stable
   on serial imaging, not clearly a bleed, unlikely contributory to the
   current presentation.
   - Wean sedation for q4h neuro checks
   - Neurosurgery recommendations appreciated
   - Renal failure improving, holding on HD at this time
   .
   # Acute on chronic renal failure
   Felt most c/w ATN by renal. Good urine output, likely post-ATN
   diuresis. No indication for HD at this time
   - Follow lytes [**Hospital1 **]
   - Follow urine output closely given potential for volume depletion,
   goal even as discussed above
   # Meningioma and h/o seizures
   Scans reviewed by neurosurgery, felt no bleeding or significant acute
   process
   - continue keppra
   - run close to even
   - neurosurgery recs appreciated
   # Hypernatremia
   - Check PM lytes
   - Check free water deficit, replete conservatively
   # Gout:
   - will continue steroids for now
 equivalent of 40 pred of solumedrol
   currently
   # h/o Wegeners: No evidence of white cell casts, acanthocytes, red cell
   casts that would suggest flare of Wegeners
   - renal following, appreciate recs
   ..
   # AS: From OSH records, patient with mild aortic valve stenosis: [**Location (un) 549**]
   1.07 cm2 on TTE [**12-18**]. Patient on lasix (unclear if with documented
   failure)
   - watch for fluid overload
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-5-24**] 07:56 PM
   16 Gauge - [**2159-5-24**] 07:57 PM
   Multi Lumen - [**2159-5-25**] 02:28 AM
   Prophylaxis:
   DVT: IV PPI
   Stress ulcer: Pneumoboots
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Partner
   [**Name (NI) 156**] status: Full code
   Disposition:  ICU

2159-05-27 10:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Runs of AF with RVR overnight.  Given a dose of IV digoxin then started
   on an amio load.
   Neosynephrine weaned to off.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Micafungin - [**2159-5-25**] 04:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-27**] 04:02 AM
   Vancomycin - [**2159-5-27**] 09:38 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 50 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Propofol - [**2159-5-26**] 02:01 PM
   Fentanyl - [**2159-5-26**] 02:53 PM
   Metoprolol - [**2159-5-27**] 06:46 AM
   Other medications:
   Dilantin, Keppra, peridex, solumedrol 32mg IV Q24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-27**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 136 (100 - 136) bpm
   BP: 112/69(78) {71/58(61) - 127/83(91)} mmHg
   RR: 19 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
   CVP: 11 (6 - 12)mmHg
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  4,319 mL
                                                                  1,141 mL
   PO:
   TF:
   IVF:
                                                                  3,969 mL
                                                                  1,141 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,740 mL
                                                                  1,530 mL
   Urine:
                                                                  4,740 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
   Balance:
                                                                   -421 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (427 - 477) mL
   PS : 0 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 99%
   ABG: ///20/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus.
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: course ventilated BS
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   226 K/uL
   115 mg/dL
   3.0 mg/dL
   20 mEq/L
   3.8 mEq/L
   133 mg/dL
   113 mEq/L
   148 mEq/L
   28.5 %
   14.8 K/uL
        [image002.jpg]
                             [**2159-5-25**]  09:18 AM
                             [**2159-5-25**]  11:23 AM
                             [**2159-5-25**]  05:37 PM
                             [**2159-5-25**]  07:31 PM
                             [**2159-5-26**]  12:05 AM
                             [**2159-5-26**]  05:56 AM
                             [**2159-5-26**]  11:50 AM
                             [**2159-5-26**]  04:32 PM
                             [**2159-5-26**]  11:03 PM
                             [**2159-5-27**]  03:35 AM
   WBC
   7.6
   8.2
   9.1
   10.5
   11.1
   12.9
   12.8
   14.8
   Hct
   29.0
   29.6
   27.5
   27.6
   25.5
   28.9
   30.1
   29.6
   27.9
   28.5
   Plt
   274
   272
   233
   [**Telephone/Fax (2) 12703**]26
   Cr
   4.9
   4.5
   3.9
   3.9
   3.6
   3.3
   3.0
   Glucose
   162
   175
   140
   101
   84
   105
   115
   Other labs: PT / PTT / INR:14.7/27.8/1.3, CK / CKMB /
   Troponin-T:812/8/0.04, ALT / AST:261/144, Alk Phos / T Bili:401/5.5,
   Amylase / Lipase:48/59, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:295 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Imaging: Echo:  LVH, hyperdynamic. Unable to assess pulmonary
   pressures.  RV nml
   CXR:  Low lung volumes, ETT and IJ in place.  Loss of L hemidiaphragm
   Microbiology: BCx:  [**2-12**] GNR
   Biliary fluid Cx:  Pending
   Assessment and Plan
   62 yo M history of wegener's with baseline creatinine 1.2, PE [**11-17**],
   stable meningioma, AS with [**Location (un) 549**] 1, gout, who presented with altered
   mental status and was found to have new liver failure
   1.)  Biliary obstruction/Sepsis: Now s/p perc drain.  Now with GNR in
   the blood.
   -Follow up cultures from drain.
   -Continue empiric Zosyn, Vanc.   Will wait for final cultures to tailor
   abx.
   -Daily surveillance cultures
   -Now off pressors
   -Surgery on board
    2.)  Renal Failure:  Sediment c/w ATN in setting of sepsis.  U/o and
   Creatine both improving.
   -Continue to monitor u/o, lyes during post-ATN diuresis
   -TBB goal even today
    3.)  Coagulopathy: Anticoagulated for h/o PE in [**11-17**].  INR responded
   vigorously to Vitamin K.
   -If no new bleeding, will restart coumadin tomorrow.
    4.) AF with RVR:  Currently in sinus.
   -Will continue with amio load for now, as acute illness improves this
   will hopefully settle down as well.
    5.)  Respiratory Failure:  Intubated originally for airway
   protection.  Minimal secretions, tolerating SBT this AM
   -Extubate
   6. Gout: Apparently on chronic prednisone 40mg daily.  Unclear if all
   for gout or in part for WG.
   - Currently on solumedrol for absorption issues.  Once ileus
   sufficiently better, can switch back to prednisone.
    7. GIB: No signs of GIB since melena on initial presentation.
   -Check Q8hr HCT for now.  If rebleeds, may need EGD
    Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-5-24**] 07:56 PM
   16 Gauge - [**2159-5-24**] 07:57 PM
   Multi Lumen - [**2159-5-25**] 02:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2159-05-28 07:14:00 Physician Resident Progress Note
Chief Complaint:
   62yo with GNR bacteremia, biliary infection, AMS, GIB and ARF which is
   slowly improving
   24 Hour Events:
   -extubated
   -mentals status slowly improving
   Subjective
 mild RUQ pain this AM, overall better
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2159-5-27**] 09:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-5-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-5-28**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 102 (99 - 136) bpm
   BP: 136/89(99) {108/69(78) - 138/89(99)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 5 (5 - 12)mmHg
   Total In:
                                                                  4,141 mL
                                                                  1,872 mL
   PO:
                                                                  1,260 mL
                                                                  1,440 mL
   TF:
   IVF:
                                                                  2,881 mL
                                                                    432 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                  2,010 mL
   Urine:
                                                                  3,680 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
                                                                    480 mL
                                                                    170 mL
   Balance:
                                                                   -519 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 477 (477 - 477) mL
   PS : 0 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 3%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 8.8 L/min
   Physical Examination
   General Appears comfortable
   HEENT anicteric
   Neck RIJ inplace
   Pulm few rales L base
   CV regular S1 S2 II/VI systolic murmur throughout precordium
   Abd soft +bowel sounds biliary drain in place with dark foul smelling
   fluid
   Extrem warm no edema
   Neuro alert, awake and answering appropriately, moving extremities,
   oriented
   Labs / Radiology
   215 K/uL
   9.4 g/dL
   64 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   102 mg/dL
   110 mEq/L
   143 mEq/L
   27.0 %
   16.5 K/uL
        [image002.jpg]
                             [**2159-5-25**]  07:31 PM
                             [**2159-5-26**]  12:05 AM
                             [**2159-5-26**]  05:56 AM
                             [**2159-5-26**]  11:50 AM
                             [**2159-5-26**]  04:32 PM
                             [**2159-5-26**]  11:03 PM
                             [**2159-5-27**]  03:35 AM
                             [**2159-5-27**]  03:56 PM
                             [**2159-5-27**]  11:10 PM
                             [**2159-5-28**]  05:14 AM
   WBC
   9.1
   10.5
   11.1
   12.9
   12.8
   14.8
   16.4
   16.5
   Hct
   27.6
   25.5
   28.9
   30.1
   29.6
   27.9
   28.5
   28.5
   27.0
   Plt
   233
   219
   256
   [**Telephone/Fax (2) 12719**]15
   Cr
   3.9
   3.9
   3.6
   3.3
   3.0
   2.9
   2.6
   2.4
   Glucose
   140
   101
   84
   105
   115
   110
   83
   64
   Other labs: PT / PTT / INR:13.8/26.5/1.2, CK / CKMB /
   Troponin-T:812/8/0.04, ALT / AST:180/91, Alk Phos / T Bili:352/5.6,
   Amylase / Lipase:48/59, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   CXR [**5-27**]
   Right infrahilar consolidation has been present since at least [**5-24**]. On
   the left, a less severe region of presumed atelectasis has slowly
   progressed.
   Lung volumes remain quite low. Pleural effusion, if any, is minimal.
   With
   the chin down, tip of the endotracheal tube approximately 2 cm from the
   carina
   is still acceptable. Right jugular line ends at the superior cavoatrial
   junction. No pneumothorax.
   [**5-26**] TTE
   The left atrium is normal in size. There is moderate symmetric left
   ventricular hypertrophy. The left ventricular cavity is small. Left
   ventricular systolic function is hyperdynamic (EF 80%). Right
   ventricular chamber size and free wall motion are normal. There are
   three aortic valve leaflets. The aortic valve leaflets are moderately
   thickened. There is mild aortic valve stenosis (valve area 1.2-1.9cm2).
   The mitral valve leaflets are mildly thickened. There is no mitral
   valve prolapse. Trivial mitral regurgitation is seen. [Due to acoustic
   shadowing, the severity of mitral regurgitation may be significantly
   UNDERestimated.] The pulmonary artery systolic pressure could not be
   determined. There is no pericardial effusion.
   Micro
   [**5-25**] bile cx heavy growth pan S E. Coli and Serratia, sparse growth of
   2^nd GNR
   [**5-24**] [**3-17**] with GNRS (pan S)
   4/16,[**5-27**] blood cx NGTD
   [**5-24**] urine mixed flora
   Assessment and Plan
   62M meningioma, Wegeners, prior PE without known h/o active liver
   disease presenting to ED with altered mental status found to have
   encephalopathy, jaundice, transaminitis, acute on chronic renal failure
   s/p percutaneous cholecystostomy for biliary infection and found to
   have GNR bacteremia
   .
   # Transaminitis and jaundice
   Suspect [**3-13**] gallstone ileus and associated biliary infection
   Now s/p percutaneous cholecystotomy by IR with LFTs, bili continues to
   improve
   Had been concerned for fulminant liver failure on presentation, but
   less likely given rapid improvement in INR with vitamin K. Patient
   completed course of NAC and extensive pre-transplant workup initiated.
   - Surgery, IR, liver recs appreciated
   - d/w IR timing of pulling drain
   - Serial abdominal exams Q4hr, follow biliary drain output
   - Discuss fistulogram with surgery, GI
   - Trend LFTs and synthetic function daily
   - Continue fentanyl boluses as needed for abdominal pain
   - Can DC vancomycin, will d/c Zosyn and switch to Cipro to complete 7d
   course abx (D1=[**5-24**])
   - follow-up in liver clinic as outpatient for ?cirrhosis
   - f/up pretransplant serologic workup
   # Paroxysmal Afib with RVR
   Per discussion with partner, patient has not had this previously. Most
   likely precipitated by his acute illness, pain. Now on amiodarone HR
   better controlled overnight, in SR this morning.
   - Continue amiodarone gtt s/p load
   - Can trial metoprolol or dilt prn if needed
   - Pain control
   - No anticoagulation for now given bleeding, coagulopathy
   - f/u TSH result
   # Coagulopathy
   INR improved following vitamin K.
   - Continue to hold warfarin
   - Trend INR, maintain active T+S
   # GIB
   Patient had melena on admission in setting of coagulopathy. Per
   discussion with GI, held on EGD given absence of large bleeding. Hct
   has been stable overnight.
   - holding warfarin for now
   - Continue IV PPI [**Hospital1 **]
   - Follow [**Hospital1 **] hct, transfuse hct>25
   - Favor EGD when stabilized
   # h/o PE: Pulmonary Embolism with RH strain dx [**11/2158**] with bilateral
   DVTs
   - continuing to hold anticoagulation for now, has IVC filter
   # Hypotension: Patient off pressors now.
   Suspect [**3-13**] sepsis along with relative hypovolemia in setting of
   post-ATN diuresis and blood loss. Consider also afib/RVR, meds
   (metoprolol, propofol). In setting of chronic steroids at home,
   consider also adrenal insufficiency
   - Continue fluid boluses as needed targeting CVPs >10
   - Follow urine output, goal at least net even today
   # Altered mental status
   Now significantly improved. Considerations included uremia, hepatic
   encephalopathy. No evidence of seizure activity. CT head with 2mm
   hyperdensity stable on serial imaging, not clearly a bleed, unlikely
   contributory to the current presentation.
   - Wean sedation for q6h neuro checks
   - Neurosurgery recommendations appreciated
   - start on lactulose TID
   - Renal failure improving, holding on HD at this time
   .
   # Acute on chronic renal failure
   Felt most c/w ATN by renal. Good urine output, likely post-ATN
   diuresis. No indication for HD at this time
   - Follow lytes [**Hospital1 **]
   - Follow urine output closely given potential for volume depletion,
   goal even as discussed above
   .
   # Meningioma and h/o seizures
   Scans reviewed by neurosurgery, felt no bleeding or significant acute
   process. No need for bolt.
   - continue keppra /dilantin --. Switch to PO today
   - run close to even
   - neurosurgery recs appreciated
   .
   # Hypernatremia
   - Check PM lytes
   - Check free water deficit, replete conservatively
   .
   # Gout:
   - will continue current dose of steroids for now ; change to PO
   prednisone today
   # h/o Wegeners: No evidence of white cell casts, acanthocytes, red cell
   casts that would suggest flare of Wegeners
   - renal following, appreciate recs
   ICU Care
   Nutrition:  consider limited PO trial, d/w surgery
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-5-24**] 07:56 PM
   16 Gauge - [**2159-5-24**] 07:57 PM
   Multi Lumen - [**2159-5-25**] 02:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2159-05-28 11:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo M history of wegeners., gout, presented with acutre liver failure
   in setting of cholecystitis
   24 Hour Events:
   Extubated successfuly
   mental status improving
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Vancomycin - [**2159-5-27**] 09:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2159-5-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2159-5-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, ruq discomfort
   Flowsheet Data as of  [**2159-5-28**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**61**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 107 (99 - 120) bpm
   BP: 135/89(100) {119/74(85) - 146/93(103)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 8 (5 - 12)mmHg
   Total In:
                                                                  4,141 mL
                                                                  2,011 mL
   PO:
                                                                  1,260 mL
                                                                  1,440 mL
   TF:
   IVF:
                                                                  2,881 mL
                                                                    571 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                  2,760 mL
   Urine:
                                                                  3,680 mL
                                                                  2,590 mL
   NG:
   Stool:
   Drains:
                                                                    480 mL
                                                                    170 mL
   Balance:
                                                                   -519 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   200 K/uL
   64 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   102 mg/dL
   110 mEq/L
   143 mEq/L
   27.4 %
   15.8 K/uL
        [image002.jpg]
                             [**2159-5-26**]  12:05 AM
                             [**2159-5-26**]  05:56 AM
                             [**2159-5-26**]  11:50 AM
                             [**2159-5-26**]  04:32 PM
                             [**2159-5-26**]  11:03 PM
                             [**2159-5-27**]  03:35 AM
                             [**2159-5-27**]  03:56 PM
                             [**2159-5-27**]  11:10 PM
                             [**2159-5-28**]  05:14 AM
                             [**2159-5-28**]  08:45 AM
   WBC
   10.5
   11.1
   12.9
   12.8
   14.8
   16.4
   16.5
   15.8
   Hct
   25.5
   28.9
   30.1
   29.6
   27.9
   28.5
   28.5
   27.0
   27.4
   Plt
   [**Telephone/Fax (3) 12724**]00
   Cr
   3.9
   3.9
   3.6
   3.3
   3.0
   2.9
   2.6
   2.4
   Glucose
   140
   101
   84
   105
   115
   110
   83
   64
   Other labs: PT / PTT / INR:13.7/27.5/1.2, CK / CKMB /
   Troponin-T:812/8/0.04, ALT / AST:180/91, Alk Phos / T Bili:352/5.6,
   Amylase / Lipase:48/59, Differential-Neuts:76.0 %, Band:5.0 %,
   Lymph:5.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:677 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:287 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   62 yo M history of wegeners., gout, presented with acutre liver failure
   in setting of cholecystitis
   1. Cholecystitis:
    - will d/w IR regarding when to pull drain
    - would check fistulogram to r/o enterobiliary drainage
    - would start: Cipro and discontinue vanc and zosyn given
   sensitivities to known bugs and absence of enterococcus
    - transplant surgery following, will likely require surgery 2-3 weeks
   once infection has improved
   2. Gout:
    - cont prednisone, holding colchicine in setting of renal failure
   3. AFib RVR:
    - stable on amiodarone
    - cont lopressor
    - f/u TSH
   4. history of PE and DVT s/p IVC filter:
    - will d/w GI regarding possible EGD before restarting systemic a/c
   given history of recent bleed
   5. Altered mental status: improving with improving infection, liver
   failure and renal insufficiency
    - will trial lactulose although hepatic encephalopathy is likely small
   component
   6. SZR d/o: cont keppra (IV for now for patient toleration)
   7. Wegeners: stable
   8. Neck pain: trial ultram
   ICU Care
   Nutrition:
   Comments: thin liquid diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2159-5-24**] 07:56 PM
   16 Gauge - [**2159-5-24**] 07:57 PM
   Multi Lumen - [**2159-5-25**] 02:28 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes